US07666879B2
B. (4-tert-Butyl-6-chloro-pyridin-2-ylmethyl)-dimethylamine
Stir a solution of 2N dimethylamine (9.00 mL, 18.08 mmol) in tetrahydrofuran, N,N-diisopropylethylamine (2.80 g, 3.80 mL, 21.69 mmol) while adding a solution of 2-bromomethyl-4-tert-butyl-6-chloro-pyridine (1.90 g, 7.23 mmol) in tetrahydrofuran (20 mL). Stir for 2.5 hours at ambient temperature, dilute the reaction with aqueous sodium bicarbonate (80 mL) and extract the aqueous layer with ethyl acetate (3×75 mL). Pool, desiccate, filter and concentrate the organics to yield the title compound (99%) (1.64 g, 7.23 mmol). MS(ES), m/z 227 (M+1).

reactant | dimethylamine | 18.08 mmol, 2N, 9.00 mL | CNC | C2H7N
reactant | N,N-diisopropylethylamine | 21.69 mmol, 3.80 mL, 2.80 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromomethyl-4-tert-butyl-6-chloro-pyridine | 7.23 mmol, 1.90 g | BrCC1=NC(=CC(=C1)C(C)(C)C)Cl | C10H13BrClN
reactant | sodium bicarbonate | 80 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (4-tert-Butyl-6-chloro-pyridin-2-ylmethyl)-dimethylamine | 7.23 mmol, 1.64 g, 99% | C(C)(C)(C)C1=CC(=NC(=C1)Cl)CN(C)C | C12H19ClN2
